US07081548B2
{circle around (2)} preparation of 3-chloro-5-methylphenylisocyanate
Triphosgene (17.01 g, 0.0573 mol) was dissolved in 200 ml of toluene in a 1 liter flask. 150 ml of a toluene solution of 3-chloro-5-methylaniline (21.9 g, 0.155 mol) and triethylamine (36.0 ml) was added dropwise thereto over 30 minutes at room temperature.

reactant | Triphosgene | 0.0573 mol, 17.01 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3-chloro-5-methylaniline | 0.155 mol, 21.9 g | ClC=1C=C(N)C=C(C1)C | C7H8ClN
reactant | triethylamine | 36.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-5-methylphenylisocyanate | ClC=1C=C(C=C(C1)C)N=C=O | C8H6ClNO
